US07378525B2
4-(4-Cyclohexylcarbamoyl-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid ethyl ester (F-3)
4-(Piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide hydrochloride F-2 (87 mg, 0.19 mmol) was dissolved and stirred in dichloromethane (2 mL). Triethylamine (58 mg, 0.08 mL, 0.57 mmol) was added followed by ethyl chloroformate (41 mg, 0.037 mL, 0.39 mmol). The reaction was stirred overnight at room temperature, then charged directly to a flash column. Elution with 99:1 dichloromethane:methanol afforded the titled compound the title compound as a white solid. Wt.: 60 mg (65%). 1H NMR (300 MHz, CDCl3) δ 8.59 (m, 1H), 8.28 (m, 1H), 8.19 (d, 1H), 7.64 (m, 2H), 7.54 (d, 1H), 4.10 (m, 1H), 4.03 (q, 2H), 3.80 (m, 2), 3.64 (m, 1H), 3.18 (m, 1H), 2.68 (m, 2H), 2.12 (m, 2H), 1.79 (m, 2H), 1.68 (m, 1H), 1.58 (m, 2H), 1.47 (m, 2H), 1.24 (m, 6H), 1.18 (t, 3H); LC/MS m/z 488 (M+H)+.

reactant | 4-(Piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide hydrochloride | 0.19 mmol, 87 mg | Cl.C1(CCCCC1)NC(=O)C1=CC=C(C2=CC=CC=C12)S(NC1CCNCC1)(=O)=O
reactant | Triethylamine | 0.57 mmol, 0.08 mL, 58 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.39 mmol, 0.037 mL, 41 mg | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-(4-Cyclohexylcarbamoyl-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)C(NC1CCCCC1)=O | C25H33N3O5S
